US08071766B2
A mixture of (R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidine-5(6H)-thione (366 mg, 1.0 mmol), O-(tert-butyldimethylsilyl)hydroxylamine (588 mg, 4.0 mmol), Hg(OAc)2 (640 mg, 2.0 mmol) and toluene (5 mL) was heated at 100° C. for 2 h. The mixture was cooled to r.t. and filtered through celite. Filtrate concentrated and the resulting oily residue was triturated with dry methanol to afford a pale yellow solid. Filtered and dried to afford ((R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-tert-butyldimethylsilyloxime (384 mg, 80%) as a pale yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.22 (s, 3H), 0.23 (s, 3H) 0.97 (s, 9H) 2.70 (s, 3H) 2.91 (dd, J=16.42, 8.08 Hz, 1H) 3.19 (ddd, J=16.36, 4.86, 1.26 Hz, 1H) 4.99 (ddd, J=7.77, 5.12, 2.02 Hz, 1H) 7.05 (td, J=8.27, 2.65 Hz, 1H) 7.33 (dd, J=8.08, 2.78 Hz, 1H) 7.39 (dd, J=8.72, 5.94 Hz, 1H). MS (ES) [M+H] calculated for C20H28BrFN5OSi, 480.12. found 480.30.

reactant | (R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidine-5(6H)-thione | 1.0 mmol, 366 mg | NC=1N=C(C2=C(N1)C[C@@H](NC2=S)C2=C(C=C(C=C2)F)Br)C | C14H12BrFN4S
reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 4.0 mmol, 588 mg | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
catalyst | Hg(OAc)2 | 2.0 mmol, 640 mg | [Hg](OC(=O)C)OC(=O)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-tert-butyldimethylsilyloxime | 384 mg, 80% | [Si](C)(C)(C(C)(C)C)O\N=C\1/N[C@H](CC=2N=C(N=C(C21)C)N)C2=C(C=C(C=C2)F)Br | C20H27BrFN5OSi
